US07012075B2
Using the procedure described in Example 1 where tert-butyl 4-{4′-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino][1,1′-biphenyl]-4-yl}-1-piperazinecarboxylate is substituted for tert-butyl 4-[4′-({2-[(cyanomethyl)amino]-1-[(1-methylcyclopropyl)methyl]-2-oxoethyl}thio)-1,1′-biphenyl-4-yl]piperazine-1-carboxylate, N-(cyanomethyl)-3-(1-methylcyclopropyl)-2-[(4′-piperazin-1-yl-1,1′-biphenyl-4-yl)thio]propanamide was obtained after crystallization in EtOAc and hexane (1:2) as a beige solid. MS (+ESI): 435.2 [M+1]+.

reactant | tert-butyl 4-{4′-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino][1,1′-biphenyl]-4-yl}-1-piperazinecarboxylate | C(#N)CNC(=O)[C@H](CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C29H39N5O3
reactant | tert-butyl 4-[4′-({2-[(cyanomethyl)amino]-1-[(1-methylcyclopropyl)methyl]-2-oxoethyl}thio)-1,1′-biphenyl-4-yl]piperazine-1-carboxylate | C(#N)CNC(C(CC1(CC1)C)SC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C30H38N4O3S
product | N-(cyanomethyl)-3-(1-methylcyclopropyl)-2-[(4′-piperazin-1-yl-1,1′-biphenyl-4-yl)thio]propanamide | C(#N)CNC(C(CC1(CC1)C)SC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCNCC1)=O | C25H30N4OS
